US05834506
4-(4-tert-Butyldimethylsilyloxy-phenyl)-2-butanone
The title compound was prepared as described in General Method 5 using 10 g (60.9 mmol) of 4-(4-hydroxyphenyl)-2-butanone, 10.1 g (67 mmol) of tert-butyldimethyl silyl chloride, 4.56 g (67 mmol) of imidazole and 150 mL of DMF. The crude product was carried on "as is" to the next step (see Example KK).

reactant | 4-(4-hydroxyphenyl)-2-butanone | 60.9 mmol, 10 g | OC1=CC=C(C=C1)CCC(C)=O | C10H12O2
reactant | tert-butyldimethyl silyl chloride | 67 mmol, 10.1 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | 67 mmol, 4.56 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 4-(4-tert-Butyldimethylsilyloxy-phenyl)-2-butanone | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)CCC(C)=O | C16H26O2Si
